US04059583
To a solution of 6.9g (52 mM) of AlCl3 and 1.98g (52 mM) of lithium aluminum hydride in 257 ml of anhydrous ether is added 9.8g (52 mM) of this nitrile in 50 ml of anhydrous ether, and the whole is stirred for 2 hours at room temperature. A total of 10g of 50% NaOH and 2 ml of water is added to this reaction mixture over a period of 3 hours and the resulting solution is stirred for 16 hours. The ether is separated from the solids and dried over potassium carbonate. The dried solution is evaporated in vacuo to give 5.4g of product. Further extraction of the reaction solids with ether again after addition of 2.5 ml of water and 10g of 50% NaOH yields an organic layer which is then combined with the 5.4g of product and dried over potassium carbonate. The dried solution is filtered and the filtrate evaporated in vacuo to give 9.0 g of 2-(2-aminoethylthio)indole. This amine is converted to the hydrochloride salt with ethereal HCl and is recrystallized once from methanol/isopropanol to give 6.4g of crystalline solid. A solution of 3.0g (15 mM) of 2-(2-aminoethylthio)indole in 30 ml of dry CH2Cl2 is added to a solution of fluoroborate salt prepared from 3.42g (24 mM) of boron trifluoride etherate, 1.69g (18 mM) of epichlorohydrin, and 1.80g (18 mM) of N-methyl-2-pyrrolidinone, in 15 ml of dry CH2Cl2. The solution is stirred at room temperature under dry conditions for 4 hours, after which it is washed once with 1N NaOH and twice with brine, and dried over potassium carbonate. The dried solution is evaporated in vacuo to give 3.1g of crude product. Purification as the saccharine salt gives 2-[2-(1-methyl-2-pyrrolidinylideneamino)ethylthio]indole saccharinate as cream colored crystals; m.p. 175°-177° C.

reactant | 2-(2-aminoethylthio)indole | 15 mM, 3.0g | NCCSC=1NC2=CC=CC=C2C1 | C10H12N2S
reactant | fluoroborate | F[B-](F)(F)F
reactant | boron trifluoride etherate | 24 mM, 3.42g | B(F)(F)F.CCOCC
reactant | epichlorohydrin | 18 mM, 1.69g | C(Cl)C1CO1 | C3H5ClO
reactant | N-methyl-2-pyrrolidinone | 18 mM, 1.80g | CN1C(CCC1)=O | C5H9NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(1-methyl-2-pyrrolidinylideneamino)ethylthio]indole | CN1C(CCC1)=NCCSC=1NC2=CC=CC=C2C1 | C15H19N3S
